US07531532B2
N-(2-Chloro-4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide
Pyrrolidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide (79.6 mg) was dissolved in N,N-dimethylformamide (1.5 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (142 mg), triethylamine (0.100 ml), and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (318 mg) were added thereto at 50° C., followed by stirring at the same temperature for 2 hrs and 30 min. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (5 ml)-hexane (5 ml) was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (94.5 mg, 76.9%) as white powder.

reactant | Pyrrolidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide | 79.6 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)Cl | C16H17ClN4O2
reactant | triethylamine | 0.100 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 318 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | hexane | 5 ml | CCCCCC | C6H14
product | N-(2-Chloro-4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide | 94.5 mg, 76.9% | ClC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C25H23ClFN5O4
